US07955664B2
6,8-Difluoro-3-[5-(6-fluoro-3-pentylchroman-7-yl)-1,3-dioxan-2-yl]-2H-chromene is hydrogenated to completion in THF on a palladium/active carbon catalyst. The solution is filtered and evaporated, and the residue is recrystallised from heptane, giving isomerically pure (R)-6,8-difluoro-3-[5-((R)-6-fluoro-3-pentylchroman-7-yl)-1,3-dioxan-2-yl]chroman as a colourless solid.

reactant | 6,8-Difluoro-3-[5-(6-fluoro-3-pentylchroman-7-yl)-1,3-dioxan-2-yl]-2H-chromene | FC=1C=C2C=C(COC2=C(C1)F)C1OCC(CO1)C1=C(C=C2CC(COC2=C1)CCCCC)F | C27H29F3O4
solvent | THF | C1CCOC1 | C4H8O
catalyst | palladium | [Pd] | Pd
product | (R)-6,8-difluoro-3-[5-((R)-6-fluoro-3-pentylchroman-7-yl)-1,3-dioxan-2-yl]chroman | FC=1C=C2C[C@H](COC2=C(C1)F)C1OCC(CO1)C1=C(C=C2C[C@H](COC2=C1)CCCCC)F | C27H31F3O4
